US06657070B2
To N-[(5-Chloro-2-thienyl)sulfonyl]-3-ethyl-L-norvaline (5.6 g, 17.2 mmol) in THF (150 mL) at 0° C. was added a solution of 1 M borane tetrahydrofuran complex in THF (69 mL, 69 mmol) dropwise via addition funnel. After 15 min, the reaction mixture was warmed to 25° C. and stirred for 18 h. It was then quenched with 90 mL of 10% AcOH in MeOH slowly. Volatiles were removed in vacuo. The residue was then dissolved in EtOAc (300 mL) and washed with saturated aqueous NaHCO3 (3×200 mL), dried (Na2SO4), and concentrated to a white precipitate (5.1 g, 96% yield, 96% chiral purity). The precipitate was recrystallized with heptane/EtOAc, 4:1, to give optically pure 5-chloro-N-[(S)-2-ethyl-1-(hydroxymethyl)butyl]-2-thiophenesulfonamide as white needles (4.4 g, 81% yield). [α]D25=+4.5° (c=1% SOLUTION, DMSO). Mass Spectrum (−ESI): 310 (M−H)−. Anal. Calc'd for C11H18CINO3S2: C, 42.37; H, 5.82; N, 4.49. Found: C, 42.37; H, 5.79; N, 4.38.

reactant | N-[(5-Chloro-2-thienyl)sulfonyl]-3-ethyl-L-norvaline | 17.2 mmol, 5.6 g | ClC1=CC=C(S1)S(=O)(=O)N[C@@H](C(CC)CC)C(=O)O | C11H16ClNO4S2
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 69 mmol, 69 mL | C1CCOC1 | C4H8O
product | 5-chloro-N-[(S)-2-ethyl-1-(hydroxymethyl)butyl]-2-thiophenesulfonamide | 4.4 g, 81% yield | ClC1=CC=C(S1)S(=O)(=O)N[C@@H](C(CC)CC)CO | C11H18ClNO3S2
